US07759518B2
4-Bromo-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)thiophene-3-sulfonamide
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene 1,2-diamine was reacted with 4-bromothiophene-3-sulfonyl chloride to obtain the title compound. 1H NMR (300 MHz, CDCl3): δ 7.48 (br m, 2H), 7.39 (dd, J=1.8 & 10.5 Hz, 1H), 7.28 (ddd, J=2.4, 4.8 & 9.0 Hz, 1H), 7.17 (d, J=8.4 Hz, 1H), 7.02 (m, 1H), 6.02 (dt, J=2.4, 8.7 & 17.4 Hz, 1H), 5.68 (br s, 1H).

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene 1,2-diamine | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | 4-bromothiophene-3-sulfonyl chloride | BrC=1C(=CSC1)S(=O)(=O)Cl | C4H2BrClO2S2
product | 4-Bromo-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)thiophene-3-sulfonamide | BrC=1C(=CSC1)S(=O)(=O)NC1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F | C16H9BrF3IN2O2S2
